US08633173B2
179 c) 4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 1.625 mmol) and 4-(3-Amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (500.0 mg, 1.803 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (90.0 mg, 0.165 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.70 g, 79%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.51 (d, J=6.6 Hz, 1H), 8.24 (d, J=8.3 Hz, 2H), 8.08 (d, J=8.4 Hz, 2H), 7.66 (d, J=7.4 Hz, 1H), 7.32 (s, 1H), 7.24 (t, J=8.1 Hz, 1H), 7.05-6.99 (m, 2H), 6.89 (s, 1H), 6.59 (d, J=8.2 Hz, 1H), 3.63-3.58 (m, 4H), 3.22-3.17 (m, 4H), 3.10 (s, 3H), 1.50 (s, 9H). MS=549 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.625 mmol, 500.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 4-(3-Amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.803 mmol, 500.0 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)N | C15H23N3O2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.165 mmol, 90.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C28H32N6O4S
